US05017212
2-Methylpyrazolo[1,5-a]pyrimidine
3-Amino-5-methylpyrazole is reacted with 1,1,3,3-tetramethoxypropane under an acidic condition of hydrochloric acid and treated in a similar way to Reference Example 22 to give the title compound as a crystal. mp. 54°-57° C.

reactant | 3-Amino-5-methylpyrazole | NC1=NNC(=C1)C | C4H7N3
reactant | 1,1,3,3-tetramethoxypropane | COC(CC(OC)OC)OC | C7H16O4
reactant | hydrochloric acid | Cl | ClH
product | 2-Methylpyrazolo[1,5-a]pyrimidine | CC1=NN2C(N=CC=C2)=C1 | C7H7N3
